** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-185/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant J10c: 300 cycles, nominal period
** 3.9170 ns, injected period jitter 1.000000% RMS
** (seeded RNG, seed 185010), TR = TF = 1 ns.
VCLK CLK GND pwl(
+ 0.000000n 0 1.500000n 0 2.500000n 1.8 3.467587n 1.8
+ 4.467587n 0 5.435174n 0 6.435174n 1.8 7.412706n 1.8
+ 8.412706n 0 9.390239n 0 10.390239n 1.8 11.309488n 1.8
+ 12.309488n 0 13.228738n 0 14.228738n 1.8 15.200628n 1.8
+ 16.200628n 0 17.172519n 0 18.172519n 1.8 19.153921n 1.8
+ 20.153921n 0 21.135324n 0 22.135324n 1.8 23.078011n 1.8
+ 24.078011n 0 25.020698n 0 26.020698n 1.8 26.951104n 1.8
+ 27.951104n 0 28.881509n 0 29.881509n 1.8 30.850456n 1.8
+ 31.850456n 0 32.819404n 0 33.819404n 1.8 34.771235n 1.8
+ 35.771235n 0 36.723066n 0 37.723066n 1.8 38.689098n 1.8
+ 39.689098n 0 40.655130n 0 41.655130n 1.8 42.608410n 1.8
+ 43.608410n 0 44.561691n 0 45.561691n 1.8 46.506346n 1.8
+ 47.506346n 0 48.451000n 0 49.451000n 1.8 50.422296n 1.8
+ 51.422296n 0 52.393592n 0 53.393592n 1.8 54.347858n 1.8
+ 55.347858n 0 56.302123n 0 57.302123n 1.8 58.256420n 1.8
+ 59.256420n 0 60.210717n 0 61.210717n 1.8 62.173219n 1.8
+ 63.173219n 0 64.135720n 0 65.135720n 1.8 66.089666n 1.8
+ 67.089666n 0 68.043611n 0 69.043611n 1.8 70.009970n 1.8
+ 71.009970n 0 71.976329n 0 72.976329n 1.8 73.930021n 1.8
+ 74.930021n 0 75.883714n 0 76.883714n 1.8 77.869536n 1.8
+ 78.869536n 0 79.855357n 0 80.855357n 1.8 81.766974n 1.8
+ 82.766974n 0 83.678592n 0 84.678592n 1.8 85.653946n 1.8
+ 86.653946n 0 87.629300n 0 88.629300n 1.8 89.565099n 1.8
+ 90.565099n 0 91.500898n 0 92.500898n 1.8 93.444309n 1.8
+ 94.444309n 0 95.387720n 0 96.387720n 1.8 97.308553n 1.8
+ 98.308553n 0 99.229386n 0 100.229386n 1.8 101.204522n 1.8
+ 102.204522n 0 103.179659n 0 104.179659n 1.8 105.107584n 1.8
+ 106.107584n 0 107.035510n 0 108.035510n 1.8 108.976588n 1.8
+ 109.976588n 0 110.917665n 0 111.917665n 1.8 112.867539n 1.8
+ 113.867539n 0 114.817412n 0 115.817412n 1.8 116.788125n 1.8
+ 117.788125n 0 118.758838n 0 119.758838n 1.8 120.705444n 1.8
+ 121.705444n 0 122.652051n 0 123.652051n 1.8 124.610528n 1.8
+ 125.610528n 0 126.569005n 0 127.569005n 1.8 128.502948n 1.8
+ 129.502948n 0 130.436891n 0 131.436891n 1.8 132.374925n 1.8
+ 133.374925n 0 134.312958n 0 135.312958n 1.8 136.284613n 1.8
+ 137.284613n 0 138.256268n 0 139.256268n 1.8 140.186354n 1.8
+ 141.186354n 0 142.116440n 0 143.116440n 1.8 144.083552n 1.8
+ 145.083552n 0 146.050664n 0 147.050664n 1.8 148.011420n 1.8
+ 149.011420n 0 149.972176n 0 150.972176n 1.8 151.931191n 1.8
+ 152.931191n 0 153.890206n 0 154.890206n 1.8 155.821172n 1.8
+ 156.821172n 0 157.752138n 0 158.752138n 1.8 159.703538n 1.8
+ 160.703538n 0 161.654938n 0 162.654938n 1.8 163.603802n 1.8
+ 164.603802n 0 165.552666n 0 166.552666n 1.8 167.494949n 1.8
+ 168.494949n 0 169.437233n 0 170.437233n 1.8 171.428640n 1.8
+ 172.428640n 0 173.420048n 0 174.420048n 1.8 175.354551n 1.8
+ 176.354551n 0 177.289054n 0 178.289054n 1.8 179.229152n 1.8
+ 180.229152n 0 181.169250n 0 182.169250n 1.8 183.108568n 1.8
+ 184.108568n 0 185.047886n 0 186.047886n 1.8 186.977655n 1.8
+ 187.977655n 0 188.907423n 0 189.907423n 1.8 190.855155n 1.8
+ 191.855155n 0 192.802888n 0 193.802888n 1.8 194.758147n 1.8
+ 195.758147n 0 196.713406n 0 197.713406n 1.8 198.647563n 1.8
+ 199.647563n 0 200.581720n 0 201.581720n 1.8 202.490503n 1.8
+ 203.490503n 0 204.399286n 0 205.399286n 1.8 206.354163n 1.8
+ 207.354163n 0 208.309039n 0 209.309039n 1.8 210.263509n 1.8
+ 211.263509n 0 212.217979n 0 213.217979n 1.8 214.190097n 1.8
+ 215.190097n 0 216.162214n 0 217.162214n 1.8 218.112178n 1.8
+ 219.112178n 0 220.062141n 0 221.062141n 1.8 222.028435n 1.8
+ 223.028435n 0 223.994728n 0 224.994728n 1.8 225.974648n 1.8
+ 226.974648n 0 227.954567n 0 228.954567n 1.8 229.901638n 1.8
+ 230.901638n 0 231.848708n 0 232.848708n 1.8 233.815738n 1.8
+ 234.815738n 0 235.782768n 0 236.782768n 1.8 237.752998n 1.8
+ 238.752998n 0 239.723229n 0 240.723229n 1.8 241.679197n 1.8
+ 242.679197n 0 243.635165n 0 244.635165n 1.8 245.579002n 1.8
+ 246.579002n 0 247.522838n 0 248.522838n 1.8 249.470750n 1.8
+ 250.470750n 0 251.418663n 0 252.418663n 1.8 253.424114n 1.8
+ 254.424114n 0 255.429565n 0 256.429565n 1.8 257.421423n 1.8
+ 258.421423n 0 259.413281n 0 260.413281n 1.8 261.371691n 1.8
+ 262.371691n 0 263.330100n 0 264.330100n 1.8 265.331600n 1.8
+ 266.331600n 0 267.333100n 0 268.333100n 1.8 269.275644n 1.8
+ 270.275644n 0 271.218188n 0 272.218188n 1.8 273.182219n 1.8
+ 274.182219n 0 275.146251n 0 276.146251n 1.8 277.122987n 1.8
+ 278.122987n 0 279.099724n 0 280.099724n 1.8 281.059622n 1.8
+ 282.059622n 0 283.019520n 0 284.019520n 1.8 284.976046n 1.8
+ 285.976046n 0 286.932571n 0 287.932571n 1.8 288.866826n 1.8
+ 289.866826n 0 290.801080n 0 291.801080n 1.8 292.718970n 1.8
+ 293.718970n 0 294.636859n 0 295.636859n 1.8 296.602262n 1.8
+ 297.602262n 0 298.567664n 0 299.567664n 1.8 300.514107n 1.8
+ 301.514107n 0 302.460550n 0 303.460550n 1.8 304.452856n 1.8
+ 305.452856n 0 306.445163n 0 307.445163n 1.8 308.358824n 1.8
+ 309.358824n 0 310.272485n 0 311.272485n 1.8 312.204532n 1.8
+ 313.204532n 0 314.136578n 0 315.136578n 1.8 316.094694n 1.8
+ 317.094694n 0 318.052810n 0 319.052810n 1.8 320.001457n 1.8
+ 321.001457n 0 321.950104n 0 322.950104n 1.8 323.893454n 1.8
+ 324.893454n 0 325.836804n 0 326.836804n 1.8 327.820440n 1.8
+ 328.820440n 0 329.804075n 0 330.804075n 1.8 331.750001n 1.8
+ 332.750001n 0 333.695927n 0 334.695927n 1.8 335.657631n 1.8
+ 336.657631n 0 337.619335n 0 338.619335n 1.8 339.604657n 1.8
+ 340.604657n 0 341.589979n 0 342.589979n 1.8 343.534561n 1.8
+ 344.534561n 0 345.479143n 0 346.479143n 1.8 347.428678n 1.8
+ 348.428678n 0 349.378213n 0 350.378213n 1.8 351.316855n 1.8
+ 352.316855n 0 353.255497n 0 354.255497n 1.8 355.209135n 1.8
+ 356.209135n 0 357.162773n 0 358.162773n 1.8 359.154792n 1.8
+ 360.154792n 0 361.146811n 0 362.146811n 1.8 363.099707n 1.8
+ 364.099707n 0 365.052604n 0 366.052604n 1.8 367.000733n 1.8
+ 368.000733n 0 368.948863n 0 369.948863n 1.8 370.905355n 1.8
+ 371.905355n 0 372.861847n 0 373.861847n 1.8 374.854057n 1.8
+ 375.854057n 0 376.846266n 0 377.846266n 1.8 378.783298n 1.8
+ 379.783298n 0 380.720331n 0 381.720331n 1.8 382.691373n 1.8
+ 383.691373n 0 384.662415n 0 385.662415n 1.8 386.617329n 1.8
+ 387.617329n 0 388.572244n 0 389.572244n 1.8 390.541558n 1.8
+ 391.541558n 0 392.510873n 0 393.510873n 1.8 394.455352n 1.8
+ 395.455352n 0 396.399832n 0 397.399832n 1.8 398.379878n 1.8
+ 399.379878n 0 400.359924n 0 401.359924n 1.8 402.346665n 1.8
+ 403.346665n 0 404.333407n 0 405.333407n 1.8 406.269845n 1.8
+ 407.269845n 0 408.206282n 0 409.206282n 1.8 410.179704n 1.8
+ 411.179704n 0 412.153125n 0 413.153125n 1.8 414.072846n 1.8
+ 415.072846n 0 415.992567n 0 416.992567n 1.8 417.953025n 1.8
+ 418.953025n 0 419.913483n 0 420.913483n 1.8 421.859298n 1.8
+ 422.859298n 0 423.805114n 0 424.805114n 1.8 425.734864n 1.8
+ 426.734864n 0 427.664615n 0 428.664615n 1.8 429.634682n 1.8
+ 430.634682n 0 431.604749n 0 432.604749n 1.8 433.567902n 1.8
+ 434.567902n 0 435.531054n 0 436.531054n 1.8 437.506541n 1.8
+ 438.506541n 0 439.482028n 0 440.482028n 1.8 441.430071n 1.8
+ 442.430071n 0 443.378114n 0 444.378114n 1.8 445.341175n 1.8
+ 446.341175n 0 447.304236n 0 448.304236n 1.8 449.254138n 1.8
+ 450.254138n 0 451.204040n 0 452.204040n 1.8 453.183686n 1.8
+ 454.183686n 0 455.163332n 0 456.163332n 1.8 457.105453n 1.8
+ 458.105453n 0 459.047574n 0 460.047574n 1.8 460.997655n 1.8
+ 461.997655n 0 462.947736n 0 463.947736n 1.8 464.909671n 1.8
+ 465.909671n 0 466.871606n 0 467.871606n 1.8 468.820058n 1.8
+ 469.820058n 0 470.768510n 0 471.768510n 1.8 472.716913n 1.8
+ 473.716913n 0 474.665317n 0 475.665317n 1.8 476.629255n 1.8
+ 477.629255n 0 478.593193n 0 479.593193n 1.8 480.569885n 1.8
+ 481.569885n 0 482.546576n 0 483.546576n 1.8 484.509378n 1.8
+ 485.509378n 0 486.472179n 0 487.472179n 1.8 488.435751n 1.8
+ 489.435751n 0 490.399322n 0 491.399322n 1.8 492.356471n 1.8
+ 493.356471n 0 494.313621n 0 495.313621n 1.8 496.311841n 1.8
+ 497.311841n 0 498.310062n 0 499.310062n 1.8 500.281417n 1.8
+ 501.281417n 0 502.252772n 0 503.252772n 1.8 504.223085n 1.8
+ 505.223085n 0 506.193398n 0 507.193398n 1.8 508.172969n 1.8
+ 509.172969n 0 510.152540n 0 511.152540n 1.8 512.150574n 1.8
+ 513.150574n 0 514.148607n 0 515.148607n 1.8 516.108316n 1.8
+ 517.108316n 0 518.068024n 0 519.068024n 1.8 520.021929n 1.8
+ 521.021929n 0 521.975834n 0 522.975834n 1.8 523.956108n 1.8
+ 524.956108n 0 525.936381n 0 526.936381n 1.8 527.903064n 1.8
+ 528.903064n 0 529.869747n 0 530.869747n 1.8 531.853980n 1.8
+ 532.853980n 0 533.838214n 0 534.838214n 1.8 535.816551n 1.8
+ 536.816551n 0 537.794889n 0 538.794889n 1.8 539.727189n 1.8
+ 540.727189n 0 541.659489n 0 542.659489n 1.8 543.641375n 1.8
+ 544.641375n 0 545.623261n 0 546.623261n 1.8 547.605233n 1.8
+ 548.605233n 0 549.587204n 0 550.587204n 1.8 551.560022n 1.8
+ 552.560022n 0 553.532839n 0 554.532839n 1.8 555.485706n 1.8
+ 556.485706n 0 557.438573n 0 558.438573n 1.8 559.410459n 1.8
+ 560.410459n 0 561.382345n 0 562.382345n 1.8 563.355811n 1.8
+ 564.355811n 0 565.329276n 0 566.329276n 1.8 567.285830n 1.8
+ 568.285830n 0 569.242384n 0 570.242384n 1.8 571.212968n 1.8
+ 572.212968n 0 573.183552n 0 574.183552n 1.8 575.168164n 1.8
+ 576.168164n 0 577.152777n 0 578.152777n 1.8 579.150439n 1.8
+ 580.150439n 0 581.148101n 0 582.148101n 1.8 583.071739n 1.8
+ 584.071739n 0 584.995377n 0 585.995377n 1.8 586.939910n 1.8
+ 587.939910n 0 588.884444n 0 589.884444n 1.8 590.831208n 1.8
+ 591.831208n 0 592.777972n 0 593.777972n 1.8 594.738809n 1.8
+ 595.738809n 0 596.699645n 0 597.699645n 1.8 598.654166n 1.8
+ 599.654166n 0 600.608686n 0 601.608686n 1.8 602.593648n 1.8
+ 603.593648n 0 604.578610n 0 605.578610n 1.8 606.545995n 1.8
+ 607.545995n 0 608.513380n 0 609.513380n 1.8 610.456717n 1.8
+ 611.456717n 0 612.400053n 0 613.400053n 1.8 614.369379n 1.8
+ 615.369379n 0 616.338706n 0 617.338706n 1.8 618.322239n 1.8
+ 619.322239n 0 620.305773n 0 621.305773n 1.8 622.258676n 1.8
+ 623.258676n 0 624.211580n 0 625.211580n 1.8 626.163616n 1.8
+ 627.163616n 0 628.115652n 0 629.115652n 1.8 630.110946n 1.8
+ 631.110946n 0 632.106239n 0 633.106239n 1.8 634.094996n 1.8
+ 635.094996n 0 636.083753n 0 637.083753n 1.8 638.022007n 1.8
+ 639.022007n 0 639.960262n 0 640.960262n 1.8 641.944529n 1.8
+ 642.944529n 0 643.928795n 0 644.928795n 1.8 645.874505n 1.8
+ 646.874505n 0 647.820216n 0 648.820216n 1.8 649.801482n 1.8
+ 650.801482n 0 651.782748n 0 652.782748n 1.8 653.747596n 1.8
+ 654.747596n 0 655.712444n 0 656.712444n 1.8 657.678982n 1.8
+ 658.678982n 0 659.645520n 0 660.645520n 1.8 661.591855n 1.8
+ 662.591855n 0 663.538191n 0 664.538191n 1.8 665.485187n 1.8
+ 666.485187n 0 667.432183n 0 668.432183n 1.8 669.419227n 1.8
+ 670.419227n 0 671.406271n 0 672.406271n 1.8 673.327805n 1.8
+ 674.327805n 0 675.249339n 0 676.249339n 1.8 677.232033n 1.8
+ 678.232033n 0 679.214728n 0 680.214728n 1.8 681.164308n 1.8
+ 682.164308n 0 683.113889n 0 684.113889n 1.8 685.070725n 1.8
+ 686.070725n 0 687.027561n 0 688.027561n 1.8 688.951112n 1.8
+ 689.951112n 0 690.874662n 0 691.874662n 1.8 692.824420n 1.8
+ 693.824420n 0 694.774178n 0 695.774178n 1.8 696.726560n 1.8
+ 697.726560n 0 698.678943n 0 699.678943n 1.8 700.652020n 1.8
+ 701.652020n 0 702.625096n 0 703.625096n 1.8 704.580270n 1.8
+ 705.580270n 0 706.535444n 0 707.535444n 1.8 708.505501n 1.8
+ 709.505501n 0 710.475557n 0 711.475557n 1.8 712.421978n 1.8
+ 713.421978n 0 714.368399n 0 715.368399n 1.8 716.348113n 1.8
+ 717.348113n 0 718.327828n 0 719.327828n 1.8 720.286338n 1.8
+ 721.286338n 0 722.244848n 0 723.244848n 1.8 724.212968n 1.8
+ 725.212968n 0 726.181087n 0 727.181087n 1.8 728.160394n 1.8
+ 729.160394n 0 730.139702n 0 731.139702n 1.8 732.088990n 1.8
+ 733.088990n 0 734.038277n 0 735.038277n 1.8 735.991439n 1.8
+ 736.991439n 0 737.944601n 0 738.944601n 1.8 739.904355n 1.8
+ 740.904355n 0 741.864108n 0 742.864108n 1.8 743.838251n 1.8
+ 744.838251n 0 745.812393n 0 746.812393n 1.8 747.749591n 1.8
+ 748.749591n 0 749.686789n 0 750.686789n 1.8 751.650370n 1.8
+ 752.650370n 0 753.613950n 0 754.613950n 1.8 755.573553n 1.8
+ 756.573553n 0 757.533156n 0 758.533156n 1.8 759.486980n 1.8
+ 760.486980n 0 761.440804n 0 762.440804n 1.8 763.414867n 1.8
+ 764.414867n 0 765.388930n 0 766.388930n 1.8 767.379078n 1.8
+ 768.379078n 0 769.369225n 0 770.369225n 1.8 771.333516n 1.8
+ 772.333516n 0 773.297807n 0 774.297807n 1.8 775.209412n 1.8
+ 776.209412n 0 777.121017n 0 778.121017n 1.8 779.089050n 1.8
+ 780.089050n 0 781.057084n 0 782.057084n 1.8 783.036384n 1.8
+ 784.036384n 0 785.015684n 0 786.015684n 1.8 787.000672n 1.8
+ 788.000672n 0 788.985660n 0 789.985660n 1.8 790.919575n 1.8
+ 791.919575n 0 792.853490n 0 793.853490n 1.8 794.821912n 1.8
+ 795.821912n 0 796.790334n 0 797.790334n 1.8 798.738880n 1.8
+ 799.738880n 0 800.687425n 0 801.687425n 1.8 802.663109n 1.8
+ 803.663109n 0 804.638793n 0 805.638793n 1.8 806.576830n 1.8
+ 807.576830n 0 808.514868n 0 809.514868n 1.8 810.476025n 1.8
+ 811.476025n 0 812.437183n 0 813.437183n 1.8 814.387642n 1.8
+ 815.387642n 0 816.338101n 0 817.338101n 1.8 818.257021n 1.8
+ 819.257021n 0 820.175940n 0 821.175940n 1.8 822.089536n 1.8
+ 823.089536n 0 824.003131n 0 825.003131n 1.8 825.950594n 1.8
+ 826.950594n 0 827.898057n 0 828.898057n 1.8 829.878284n 1.8
+ 830.878284n 0 831.858510n 0 832.858510n 1.8 833.817286n 1.8
+ 834.817286n 0 835.776062n 0 836.776062n 1.8 837.753702n 1.8
+ 838.753702n 0 839.731342n 0 840.731342n 1.8 841.673754n 1.8
+ 842.673754n 0 843.616167n 0 844.616167n 1.8 845.558898n 1.8
+ 846.558898n 0 847.501629n 0 848.501629n 1.8 849.460750n 1.8
+ 850.460750n 0 851.419870n 0 852.419870n 1.8 853.366837n 1.8
+ 854.366837n 0 855.313804n 0 856.313804n 1.8 857.300954n 1.8
+ 858.300954n 0 859.288103n 0 860.288103n 1.8 861.269714n 1.8
+ 862.269714n 0 863.251325n 0 864.251325n 1.8 865.231208n 1.8
+ 866.231208n 0 867.211090n 0 868.211090n 1.8 869.145106n 1.8
+ 870.145106n 0 871.079121n 0 872.079121n 1.8 873.066848n 1.8
+ 874.066848n 0 875.054574n 0 876.054574n 1.8 877.001563n 1.8
+ 878.001563n 0 878.948552n 0 879.948552n 1.8 880.922436n 1.8
+ 881.922436n 0 882.896320n 0 883.896320n 1.8 884.858595n 1.8
+ 885.858595n 0 886.820870n 0 887.820870n 1.8 888.795133n 1.8
+ 889.795133n 0 890.769397n 0 891.769397n 1.8 892.728198n 1.8
+ 893.728198n 0 894.686998n 0 895.686998n 1.8 896.647773n 1.8
+ 897.647773n 0 898.608547n 0 899.608547n 1.8 900.580286n 1.8
+ 901.580286n 0 902.552026n 0 903.552026n 1.8 904.486650n 1.8
+ 905.486650n 0 906.421275n 0 907.421275n 1.8 908.356793n 1.8
+ 909.356793n 0 910.292312n 0 911.292312n 1.8 912.252178n 1.8
+ 913.252178n 0 914.212044n 0 915.212044n 1.8 916.150742n 1.8
+ 917.150742n 0 918.089440n 0 919.089440n 1.8 920.051699n 1.8
+ 921.051699n 0 922.013959n 0 923.013959n 1.8 923.948531n 1.8
+ 924.948531n 0 925.883104n 0 926.883104n 1.8 927.856976n 1.8
+ 928.856976n 0 929.830847n 0 930.830847n 1.8 931.809521n 1.8
+ 932.809521n 0 933.788194n 0 934.788194n 1.8 935.751786n 1.8
+ 936.751786n 0 937.715378n 0 938.715378n 1.8 939.667710n 1.8
+ 940.667710n 0 941.620043n 0 942.620043n 1.8 943.583472n 1.8
+ 944.583472n 0 945.546901n 0 946.546901n 1.8 947.494216n 1.8
+ 948.494216n 0 949.441530n 0 950.441530n 1.8 951.394758n 1.8
+ 952.394758n 0 953.347985n 0 954.347985n 1.8 955.308677n 1.8
+ 956.308677n 0 957.269369n 0 958.269369n 1.8 959.218937n 1.8
+ 960.218937n 0 961.168505n 0 962.168505n 1.8 963.121270n 1.8
+ 964.121270n 0 965.074035n 0 966.074035n 1.8 967.037774n 1.8
+ 968.037774n 0 969.001514n 0 970.001514n 1.8 970.926237n 1.8
+ 971.926237n 0 972.850960n 0 973.850960n 1.8 974.778496n 1.8
+ 975.778496n 0 976.706032n 0 977.706032n 1.8 978.675056n 1.8
+ 979.675056n 0 980.644081n 0 981.644081n 1.8 982.587678n 1.8
+ 983.587678n 0 984.531275n 0 985.531275n 1.8 986.489825n 1.8
+ 987.489825n 0 988.448376n 0 989.448376n 1.8 990.392004n 1.8
+ 991.392004n 0 992.335633n 0 993.335633n 1.8 994.293223n 1.8
+ 995.293223n 0 996.250814n 0 997.250814n 1.8 998.197855n 1.8
+ 999.197855n 0 1000.144896n 0 1001.144896n 1.8 1002.105288n 1.8
+ 1003.105288n 0 1004.065680n 0 1005.065680n 1.8 1006.035468n 1.8
+ 1007.035468n 0 1008.005256n 0 1009.005256n 1.8 1009.948835n 1.8
+ 1010.948835n 0 1011.892414n 0 1012.892414n 1.8 1013.836265n 1.8
+ 1014.836265n 0 1015.780116n 0 1016.780116n 1.8 1017.714073n 1.8
+ 1018.714073n 0 1019.648030n 0 1020.648030n 1.8 1021.641457n 1.8
+ 1022.641457n 0 1023.634885n 0 1024.634885n 1.8 1025.642013n 1.8
+ 1026.642013n 0 1027.649140n 0 1028.649140n 1.8 1029.578496n 1.8
+ 1030.578496n 0 1031.507852n 0 1032.507852n 1.8 1033.477170n 1.8
+ 1034.477170n 0 1035.446489n 0 1036.446489n 1.8 1037.468203n 1.8
+ 1038.468203n 0 1039.489918n 0 1040.489918n 1.8 1041.431841n 1.8
+ 1042.431841n 0 1043.373765n 0 1044.373765n 1.8 1045.340315n 1.8
+ 1046.340315n 0 1047.306866n 0 1048.306866n 1.8 1049.287459n 1.8
+ 1050.287459n 0 1051.268051n 0 1052.268051n 1.8 1053.246873n 1.8
+ 1054.246873n 0 1055.225695n 0 1056.225695n 1.8 1057.200454n 1.8
+ 1058.200454n 0 1059.175214n 0 1060.175214n 1.8 1061.129622n 1.8
+ 1062.129622n 0 1063.084030n 0 1064.084030n 1.8 1065.037482n 1.8
+ 1066.037482n 0 1066.990935n 0 1067.990935n 1.8 1068.972420n 1.8
+ 1069.972420n 0 1070.953905n 0 1071.953905n 1.8 1072.873984n 1.8
+ 1073.873984n 0 1074.794062n 0 1075.794062n 1.8 1076.739220n 1.8
+ 1077.739220n 0 1078.684379n 0 1079.684379n 1.8 1080.638503n 1.8
+ 1081.638503n 0 1082.592627n 0 1083.592627n 1.8 1084.544284n 1.8
+ 1085.544284n 0 1086.495940n 0 1087.495940n 1.8 1088.447910n 1.8
+ 1089.447910n 0 1090.399879n 0 1091.399879n 1.8 1092.344781n 1.8
+ 1093.344781n 0 1094.289682n 0 1095.289682n 1.8 1096.246190n 1.8
+ 1097.246190n 0 1098.202697n 0 1099.202697n 1.8 1100.166301n 1.8
+ 1101.166301n 0 1102.129905n 0 1103.129905n 1.8 1104.053432n 1.8
+ 1105.053432n 0 1105.976960n 0 1106.976960n 1.8 1107.927004n 1.8
+ 1108.927004n 0 1109.877048n 0 1110.877048n 1.8 1111.842071n 1.8
+ 1112.842071n 0 1113.807094n 0 1114.807094n 1.8 1115.781574n 1.8
+ 1116.781574n 0 1117.756053n 0 1118.756053n 1.8 1119.749973n 1.8
+ 1120.749973n 0 1121.743893n 0 1122.743893n 1.8 1123.722007n 1.8
+ 1124.722007n 0 1125.700122n 0 1126.700122n 1.8 1127.663556n 1.8
+ 1128.663556n 0 1129.626990n 0 1130.626990n 1.8 1131.582988n 1.8
+ 1132.582988n 0 1133.538987n 0 1134.538987n 1.8 1135.509294n 1.8
+ 1136.509294n 0 1137.479601n 0 1138.479601n 1.8 1139.436287n 1.8
+ 1140.436287n 0 1141.392973n 0 1142.392973n 1.8 1143.373249n 1.8
+ 1144.373249n 0 1145.353526n 0 1146.353526n 1.8 1147.350433n 1.8
+ 1148.350433n 0 1149.347341n 0 1150.347341n 1.8 1151.304029n 1.8
+ 1152.304029n 0 1153.260718n 0 1154.260718n 1.8 1155.200450n 1.8
+ 1156.200450n 0 1157.140182n 0 1158.140182n 1.8 1159.063682n 1.8
+ 1160.063682n 0 1160.987182n 0 1161.987182n 1.8 1162.928879n 1.8
+ 1163.928879n 0 1164.870576n 0 1165.870576n 1.8 1166.843522n 1.8
+ 1167.843522n 0 1168.816467n 0 1169.816467n 1.8 1170.753927n 1.8
+ 1171.753927n 0 1172.691387n 0 1173.691387n 1.8 1174.645694n 1.8
+ 1175.645694n 0 1176.600000n 0 1177.600000n 1.8 1178.558500n 1.8
+ 1179.558500n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.end
